US09233982B2
Step 2: (E)-N-(2-(3-(trifluoromethyl)phenyl)-6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)cyanamide
2-(3-(Trifluoromethyl)phenyl)-6,7-dihydrobenzo[b]thiophen-4(5H)-one (0.252 g, 0.85 mmol) was dissolved in dichloromethane (2 mL). Titanium tetrachloride (1.7 mL, 1.0 M solution in dichloromethane, 1.7 mmol) was added and the reaction mixture was stirred at room temperature for 1 hr. Bis-trimethylsilylcarbodiimide (0.42 mL, 1.87 mmol) was then added and the mixture was stirred at room temperature for 18 hr. The reaction mixture was poured onto ice/water and the product was extracted with dichloromethane. This was back extracted with water and saturated sodium carbonate (aq.) solution. The organic extracts were combined, dried (MgSO4) and concentrated in vacuo to give the title compound as a cream solid (0.27 g, 99%).

reactant | 2-(3-(Trifluoromethyl)phenyl)-6,7-dihydrobenzo[b]thiophen-4(5H)-one | 0.85 mmol, 0.252 g | FC(C=1C=C(C=CC1)C1=CC2=C(S1)CCCC2=O)(F)F | C15H11F3OS
reactant | Bis-trimethylsilylcarbodiimide | 1.87 mmol, 0.42 mL | C[Si](C)(C)N=C=N[Si](C)(C)C | C7H18N2Si2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 1.7 mmol, 1.0 M, 1.7 mL | [Ti](Cl)(Cl)(Cl)Cl
product | (E)-N-(2-(3-(trifluoromethyl)phenyl)-6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)cyanamide | 0.27 g, 99% | FC(C=1C=C(C=CC1)C1=CC\2=C(S1)CCC/C2=N\C#N)(F)F | C16H11F3N2S
